US07015218B1
1-(4-Fluorophenyl)-3-methylpyrazole-5-carboxylic acid
Ethyl 1-(4-fluorophenyl)-3-methylpyrazole-5-carboxylate (2 g) was dissolved in a mixed solvent of ethanol (10 ml) and water (10 ml) and sodium hydroxide (0.4 g) was added. The mixture was stirred at a refluxing temperature for 30 min. Ethanol was evaporated and to the residue was added dilute hydrochloric acid. The obtained solid was recrystallized from aqueous methanol solution to give the title compound (1.4 g), melting point: 188° C.

reactant | Ethyl 1-(4-fluorophenyl)-3-methylpyrazole-5-carboxylate | 2 g | FC1=CC=C(C=C1)N1N=C(C=C1C(=O)OCC)C | C13H13FN2O2
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 1-(4-Fluorophenyl)-3-methylpyrazole-5-carboxylic acid | 1.4 g | FC1=CC=C(C=C1)N1N=C(C=C1C(=O)O)C | C11H9FN2O2
